US04649142
To a solution of 3,4-dihydro-6-(3,4-methylenedioxyphenyl)-1-ethyl-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone hydrochloride (70 mg) in water (10 ml) was neutralized with an aqueous solution of sodium bicarbonate. The resulting precipitates were collected by filtration to give 3,4-dihydro-6-(3,4-methylenedioxyphenyl)-1-ethyl-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone (60 mg).

reactant | 3,4-dihydro-6-(3,4-methylenedioxyphenyl)-1-ethyl-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone hydrochloride | 70 mg | Cl.C1OC=2C=C(C=CC2O1)C1=CC(N(C(N1CC)=O)C)=NC1=C(C=C(C=C1C)C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 10 ml | O | H2O
product | 3,4-dihydro-6-(3,4-methylenedioxyphenyl)-1-ethyl-3-methyl-4-(2,4,6-trimethylphenylimino)-2(1H)-pyrimidinone | 60 mg | C1OC=2C=C(C=CC2O1)C1=CC(N(C(N1CC)=O)C)=NC1=C(C=C(C=C1C)C)C | C23H25N3O3
